US05114918
To a solution of DVal-Leu-OBzl.p-TsOH(394 mg), Boc-Ser(164 mg), HOBT.H2O(129 mg) and N-methylmorpholine (88 μl) in dichloromethane(1.6 ml) was added EDCI.HCl (161 mg) under ice cooling. The reaction mixture was stirred at room temperature for 3 h. Saturated NaHCO, (2 ml) was added and the mixture was extracted with dichloromethane(15 ml×3). The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by dry column flash chromatography on silica gel(Merck, KIESELGEL 60) with dichloromethane/methanol(50/1) for elution to give a solid. The solid was dissolved in chloroform and precipitated with hexane to give Boc-Ser-DVal-Leu-OBzl(355 mg) as a colorless powder. The tripeptide(330 mg) was dissolved in THF(3.3 ml) and 10% Pd/C(33 mg) was added. The mixture was vigorously stirred at room temperature under an atmosphere of hydrogen(under atmospheric pressure) for 2 h. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure. Saturated NaCl (2 ml) was added to the residue and the mixture was extracted with EtOAc(20 ml×3). The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure to give a solid. The solid was dissolved in chloroform and reprecipitated with hexane to give Boc-Ser-DVal-Leu(246 mg) as a colorless powder.

reactant | DVal-Leu-OBzl | N[C@H](C(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1 | C18H28N2O3
reactant | p-TsOH | 394 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | Boc-Ser | 164 mg | N([C@@H](CO)C(=O)O)C(=O)OC(C)(C)C | C8H15NO5
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 88 μl | CN1CCOCC1 | C5H11NO
reactant | EDCI.HCl | 161 mg | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 1.6 ml | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | H2O | 129 mg | O | H2O
product | Boc-Ser-DVal-Leu-OBzl | 355 mg | N([C@@H](CO)C(=O)N[C@H](C(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C26H41N3O7
